US09260441B2
Step A: tert-Butyl (1S,4S)-5-(2-methyl-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
3-Bromo-2-methylpyridine (258 mg, 1.5 mmol), tert-butyl (1S,4S)-3,6-diazabicyclo[2.2.1]heptane-3-carboxylate (397 mg, 2 mmol), Pd2(DBA)3 (30 mg, 0.033 mmol), sodium tert-butoxide (160 mg, 1.66 mmol), BINAP (60 mg, 0.096 mmol) were placed in anhydrous THF (5 ml), purged with argon and heated under microwave heating at 80° C. in a closed vial for 40 minutes. The mixture was filtered through kieselguhr, concentrated under reduced pressure and purified by column chromatography (silica, gradient from 0 to 50% ethyl acetate in DCM) to yield 230 mg of an orange solid (0.80 mmol, yield 53%). MS (ESI) m/z=290.1 [M+1]+.

reactant | 3-Bromo-2-methylpyridine | 1.5 mmol, 258 mg | BrC=1C(=NC=CC1)C | C6H6BrN
reactant | tert-butyl (1S,4S)-3,6-diazabicyclo[2.2.1]heptane-3-carboxylate | 2 mmol, 397 mg | [C@H]12CN([C@H](CN1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | sodium tert-butoxide | 1.66 mmol, 160 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.096 mmol, 60 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | Pd2(DBA)3 | 0.033 mmol, 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-Butyl (1S,4S)-5-(2-methyl-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 0.80 mmol, 230 mg, yield 53% | CC1=NC=CC=C1N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C16H23N3O2
